US04879389
(b) Preparation of (2S,4S)-4-dicyclohexylphosphino-2-diphenylphosphinomethylpyrrolidine (CPM)
In 4 ml of acetonitrile were dissolved 50 mg (0.1 m-mol) of (2S,4S)-4-dicyclohexylphosphinyl-2-diphenylphosphinylmethylpyrrolidine [X] and 42 mg (0.42 m-mol) of triethylamine, and the air in the reaction vessel was satisfactorily replaced with nitrogen. A solution of 54 mg (0.4 m-mol) of trichlorosilane in 1 ml of acetonitrile was added dropwise to the above solution under ice-cooling. After refluxing the mixture for 3 hours, the mixture was concentrated under reduced pressure at a low temperature. The residual product was dissolved in 15 ml of benzene, and 10 ml of a 30% aqueous solution of caustic soda was added to the benzene solution under ice-cooling. The mixture was stirred in nitrogen atmosphere for 30 minutes at 50°60° C. The benzene phase was separated and the aqueous phase was extracted with 10 ml of benzene. The benzene phases are combined, washed with 10 ml of water, dried over magnesium sulfate and concentrated under reduced pressure whereby 44 mg (yield: 95%) of the title compound was obtained.

reactant | (2S,4S)-4-dicyclohexylphosphinyl-2-diphenylphosphinylmethylpyrrolidine | 50 mg | C1(CCCCC1)P(=O)([C@H]1C[C@H](NC1)CP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C29H41NO2P2
reactant | triethylamine | 42 mg | C(C)N(CC)CC | C6H15N
reactant | trichlorosilane | 54 mg | Cl[SiH](Cl)Cl | Cl3HSi
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (2S,4S)-4-dicyclohexylphosphino-2-diphenylphosphinomethylpyrrolidine | 44 mg, yield: 95% | C1(CCCCC1)P([C@H]1C[C@H](NC1)CP(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C29H41NP2
